US07674822B2
To a 25 mL round bottom flask added 3-ethoxycarbonylmethoxy-naphtho[1,2-b]thiophene-2-carboxylic acid methyl ester (0.116 g, 0.34 mmol) and 5 mL THF. To this mixture added a solution of lithium hydroxide hydrate (0.057 g, 1.35 mmol) in 3 mL water. This mixture was allowed to stir at room temperature for 16 hours. At this time 15 mL 1.2 N HCl was added, and a precipitate formed. The solids were collected by filtration and dried in vacuo. 3-carboxymethoxy-naphtho[1,2-b]thiophene-2-carboxylic acid was isolated as a tan solid (0.096 g, 93%). 1H NMR (400 MHz, DMSO-D6) δ ppm 5.06 (s, 2H) 7.69 (m, 2H) 7.91 (d, J=8.84 Hz, 1H) 7.95 (m, 1H) 8.08 (m, 1 H) 8.19 (t, J=4.0 Hz, 1H).

reactant | 3-ethoxycarbonylmethoxy-naphtho[1,2-b]thiophene-2-carboxylic acid methyl ester | 0.34 mmol, 0.116 g | COC(=O)C1=C(C2=C(S1)C1=CC=CC=C1C=C2)OCC(=O)OCC | C18H16O5S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide hydrate | 1.35 mmol, 0.057 g | O.[OH-].[Li+]
reactant | HCl | 1.2 N, 15 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
product | 3-carboxymethoxy-naphtho[1,2-b]thiophene-2-carboxylic acid | C(=O)(O)COC=1C2=C(SC1C(=O)O)C1=CC=CC=C1C=C2 | C15H10O5S
